### PR TITLE
[Merged by Bors] - feat(Calculus/MeanValue): A function is not differentiable if its derivative tends to infinity

### PR DESCRIPTION
**Pull request by dupuisf**
This PR shows that a function `f : ℝ → ℝ` is not differentiable at a point if its derivative tends to infinity at that point.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 1]
```diff
@@ -747,6 +747,139 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+  replace hf : Tendsto (derivWithin f (Ioi a)) (𝓝[>] a) atTop := by
+    refine hf.congr' ?_
+    filter_upwards [eventually_mem_nhdsWithin] with x hx
+    have : Ioi a ∈ 𝓝 x := by simp [← mem_interior_iff_mem_nhds, hx]
+    exact (derivWithin_of_mem_nhds this).symm
+  by_cases hcont_at_a : ¬ ContinuousWithinAt f (Ici a) a
+  · exact fun hcontra => by
+      have := hcontra.continuousWithinAt
+      rw [← ContinuousWithinAt.diff_iff this] at hcont_at_a
+      simp at hcont_at_a
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/MeanValue.lean:768]:
```suggestion
  · intro hcontra
    have := hcontra.continuousWithinAt
    rw [← ContinuousWithinAt.diff_iff this] at hcont_at_a
    simp at hcont_at_a
```

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 2]
```diff
@@ -747,6 +747,139 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+  · push_neg at hcont_at_a
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/MeanValue.lean:769]: Alternatively,
```
  by_cases hcont_at_a : ContinuousWithinAt f (Ici a) a
  case neg =>
    sorry
  case pos =>
    sorry
```

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 3]
```diff
@@ -747,6 +747,139 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+    intro hdiff
+    replace hdiff := hdiff.hasDerivWithinAt
+    rw [hasDerivWithinAt_iff_tendsto_slope] at hdiff
+    replace hdiff : Tendsto (slope f a) (𝓝[>] a) (𝓝 (derivWithin f (Ioi a) a)) :=
+      hdiff.mono_left <| by
+        apply le_of_eq
+        congr
+        exact (Set.diff_singleton_eq_self not_mem_Ioi_self).symm
+    have h₀ : ∀ᶠ b in (𝓝[>] a),
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/MeanValue.lean:778]:
```suggestion
    have h₀ : ∀ᶠ b in 𝓝[>] a,
```
also below

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 4]
```diff
@@ -747,6 +747,139 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+        ∀ x ∈ Ioc a b, max (derivWithin f (Ioi a) a + 1) 0 < derivWithin f (Ioi a) x := by
+      rw [(nhdsWithin_Ioi_basis a).eventually_iff]
+      rw [(nhdsWithin_Ioi_basis a).tendsto_left_iff] at hf
+      obtain ⟨b, hab, hb⟩ := hf (Ioi (max (derivWithin f (Ioi a) a + 1) 0)) (Ioi_mem_atTop _)
+      refine ⟨b, hab, fun x hx z hz => ?_⟩
+      simp only [MapsTo, mem_Ioo, mem_Ioi, and_imp] at hb
+      exact hb hz.1 <| hz.2.trans_lt hx.2
+    have h₁ : ∀ᶠ b in (𝓝[>] a), slope f a b < (derivWithin f (Ioi a) a) + (1 : ℝ) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/MeanValue.lean:786]:
```suggestion
    have h₁ : ∀ᶠ b in 𝓝[>] a, slope f a b < derivWithin f (Ioi a) a + 1 := by
```

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 5]
```diff
@@ -747,6 +747,139 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+      rw [(nhds_basis_Ioo _).tendsto_right_iff] at hdiff
+      specialize hdiff ⟨derivWithin f (Ioi a) a - 1, derivWithin f (Ioi a) a + 1⟩ <| by simp
+      filter_upwards [hdiff] with z hz using hz.2
+    have hcontra : ∀ᶠ _ in (𝓝[>] a), False := by
+      filter_upwards [h₀, h₁, eventually_mem_nhdsWithin] with b hb hslope (hab : a < b)
+      have hdiff' : DifferentiableOn ℝ f (Ioc a b) := fun z hz => by
+        refine DifferentiableWithinAt.mono (t := Ioi a) ?_ Ioc_subset_Ioi_self
+        have : derivWithin f (Ioi a) z ≠ 0 := Ne.symm <| ne_of_lt <| by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/MeanValue.lean:794]:
```suggestion
        have : derivWithin f (Ioi a) z ≠ 0 := ne_of_gt <| by
```

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 6]
```diff
@@ -747,6 +747,139 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+theorem not_differentiableWithinAt_of_deriv_tendsto_atBot_Ioi (f : ℝ → ℝ) {a : ℝ}
+    (hf : Tendsto (deriv f) (𝓝[>] a) atBot) : ¬ DifferentiableWithinAt ℝ f (Ioi a) a := by
+  intro h
+  have hf' : Tendsto (deriv (-f)) (𝓝[>] a) atTop := by
+    have : deriv (-f) = -deriv f := by
+      ext x
+      change deriv (fun y => -f y) x = -deriv f x
+      rw [deriv.neg']
+    rw [this]
+    exact Tendsto.comp (g := Neg.neg) (f := deriv f) (y := atBot) tendsto_neg_atBot_atTop hf
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/MeanValue.lean:833]:
```suggestion
    rw [Pi.neg_def, deriv.neg']
    exact tendsto_neg_atBot_atTop.comp hf
```

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 7]
```diff
@@ -747,6 +747,139 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+    refine Tendsto.comp (g := -deriv f) ?_ tendsto_neg_nhdsWithin_Ioi_neg
+    exact Tendsto.comp (g := Neg.neg) tendsto_neg_atBot_atTop hf
+  intro h
+  have : DifferentiableWithinAt ℝ f' (Ioi (-a)) (-a) := by
+    refine DifferentiableWithinAt.comp (g := f) (f := Neg.neg) (t := Iio a) (-a) ?_ ?_ ?_
+    · simp [h]
+    · fun_prop
+    · intro x (hx : -a < x)
+      simp only [mem_Iio]
+      linarith
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/MeanValue.lean:866]:
```suggestion
    · intro x
      simp [neg_lt]
```

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 8]
```diff
@@ -747,6 +747,139 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+theorem not_differentiableWithinAt_of_deriv_tendsto_atTop_Iio (f : ℝ → ℝ) {a : ℝ}
+    (hf : Tendsto (deriv f) (𝓝[<] a) atTop) : ¬ DifferentiableWithinAt ℝ f (Iio a) a := by
+  intro h
+  have hf' : Tendsto (deriv (-f)) (𝓝[<] a) atBot := by
+    have : deriv (-f) = -deriv f := by
+      ext x
+      change deriv (fun y => -f y) x = -deriv f x
+      rw [deriv.neg']
+    rw [this]
+    exact Tendsto.comp (g := Neg.neg) tendsto_neg_atTop_atBot hf
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/MeanValue.lean:880]:
```suggestion
    rw [Pi.neg_def, deriv.neg']
    exact tendsto_neg_atTop_atBot.comp hf
```

**Comment by adomasbaliuka** [comment]
Ruben now has status "busy". Any chance we can request someone else to review? I'm afraid I'll start losing track of all the PRs that are blocked by other PRs...

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 9]
```diff
@@ -747,6 +747,132 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+    have : Ioi a ∈ 𝓝 x := by simp [← mem_interior_iff_mem_nhds, hx]
+    exact (derivWithin_of_mem_nhds this).symm
+  by_cases hcont_at_a : ContinuousWithinAt f (Ici a) a
+  case neg =>
+    intro hcontra
+    have := hcontra.continuousWithinAt
+    rw [← ContinuousWithinAt.diff_iff this] at hcont_at_a
+    simp at hcont_at_a
+  case pos =>
+    push_neg at hcont_at_a
```
[the remark this answers is not in the document]
Comment (dupuisf) [reply Mathlib/Analysis/Calculus/MeanValue.lean:771]: Indeed it doesn't.

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 10]
```diff
@@ -747,6 +747,126 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
 
+/-- Lagrange's **Mean Value Theorem**, `deriv` version. -/
+theorem exists_deriv_eq_slope' : ∃ c ∈ Ioo a b, deriv f c = slope f a b := by
+  rw [slope_def_field]
+  exact exists_deriv_eq_slope f hab hfc hfd
+
+/-- A real function whose derivative tends to infinity from the right at a point is not
+differentiable on the right at that point -/
+theorem not_differentiableWithinAt_of_deriv_tendsto_atTop_Ioi (f : ℝ → ℝ) {a : ℝ}
+    (hf : Tendsto (deriv f) (𝓝[>] a) atTop) : ¬ DifferentiableWithinAt ℝ f (Ioi a) a := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/MeanValue.lean:758]: Does this generalize to `nhdsWithin a s` somehow?

Comment (dupuisf) [reply Mathlib/Analysis/Calculus/MeanValue.lean:758]: I'm not too sure how to do it in that case -- this uses the mean value theorem, which won't work if there are "holes" in `s`.

Comment (adomasbaliuka) [reply Mathlib/Analysis/Calculus/MeanValue.lean:758]: @eric-wieser I also don't understand what lemma statement you could have in mind...

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/MeanValue.lean:758]: The statement I had in mind is
```suggestion
    (hf : Tendsto (deriv f) (nhdsWithin a s) atTop) : ¬ DifferentiableWithinAt ℝ f s a := by
```
perhaps also with `IsOpen s`; though I don't make any particularly strong claim that this is reasonable. My comment was for another more-qualified reviewer to remark the sensibility of, not a direct request for a change.

Comment (j-loreaux) [reply Mathlib/Analysis/Calculus/MeanValue.lean:758]: Not sensible. This requires MVT.

File: Mathlib/Topology/ContinuousOn.lean [hunk 11]
```diff
@@ -636,6 +636,11 @@ theorem continuousWithinAt_congr_nhds {f : α → β} {s t : Set α} {x : α} (h
     ContinuousWithinAt f s x ↔ ContinuousWithinAt f t x := by
   simp only [ContinuousWithinAt, h]
 
+theorem ContinuousWithinAt.mono_nhdsWithin {f : α → β} {s t : Set α} {x : α}
```
Comment (urkud) [inline Mathlib/Topology/ContinuousOn.lean:639]: Currently, topology/derivatives mostly use [ContinuousWithinAt.mono_of_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousOn.html#ContinuousWithinAt.mono_of_mem) spelling.

File: Mathlib/Analysis/Calculus/MeanValue.lean [hunk 12]
```diff
@@ -747,6 +747,126 @@ theorem exists_deriv_eq_slope : ∃ c ∈ Ioo a b, deriv f c = (f b - f a) / (b
...
+  replace hf : Tendsto (derivWithin f (Ioi a)) (𝓝[>] a) atTop := by
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/MeanValue.lean:759]: An alternative proof using Darboux theorem (e.g., [Set.OrdConnected.image_derivWithin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/Darboux.html#Set.OrdConnected.image_derivWithin)): if `f'` tends to infinity, then `f` is differentiable on `[a, b]` for some `b > a` but `f' x > c > f' a` for all `a < x < b`, which is impossible because of Darboux thm. Also, this proof works the same way for left and right nhds.

Comment (dupuisf) [reply Mathlib/Analysis/Calculus/MeanValue.lean:759]: I had a quick look, but it doesn't seem significantly less painful than this proof, at least not enough to be worth a complete rewrite. Most of the pain in this version involves proving continuity on `Icc a b`, and that's easier than proving differentiability on the same interval.

File: Mathlib/Topology/ContinuousOn.lean (hunk 11 above)
Comment (dupuisf) [reply Mathlib/Topology/ContinuousOn.lean]: I changed the proof to use `ContinuousWithinAt.mono_of_mem` instead, and deleted this new lemma.

**Comment by j-loreaux** [comment]
In case there's anything I missed that you think still needs doing here: 

bors d+
